US05922871
Preparation of 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester
4-[1-(3-Amino-2-pyridyl)piperazin4-yl-carbonyl]benzoic acid methyl ester (4 g) was dissolved in methanol (90 ml) and then, acetone (2 ml), acetic acid (5 ml) and sodium cyanoborohydride (2.4 g) were added at 10° C. in order. The reaction mixture was stirred at 10° C. for 4 hours and heated to 20~25° C. and stirred for 1 hour. The solution was neutralized (pH=~8) by addition of aqueous 3N-sodium hydroxide, and excess of water was added gradually for precipitation. The mixture was stirred for 1 hour, filtered, washed with water, methanol and ether in order and dried to give 3.5 g (yield: 78%) of the desired compound as white crystal.

reactant | 4-[1-(3-Amino-2-pyridyl)piperazin4-yl-carbonyl]benzoic acid methyl ester | 4 g | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1N)=O | C18H20N4O3
reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 2.4 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | 3.5 g, yield: 78% | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
